US04906621
A mixture of 600 mg of cis-1-benzyloxycarbonyl-4-dimethylphosphonomethyl-2-piperidinecarboxylic acid methyl ester in 10 ml of methylene chloride is treated with 538 mg of trimethylsilyl iodide at room temperature to yield cis 1-benzyloxycarbonyl-4-phosphonomethyl-2-piperidine-carboxylic acid methyl ester as an oil.

reactant | cis-1-benzyloxycarbonyl-4-dimethylphosphonomethyl-2-piperidinecarboxylic acid methyl ester | 600 mg | COC(=O)[C@@H]1N(CC[C@@H](C1)CP(=O)(OC)OC)C(=O)OCC1=CC=CC=C1 | C18H26NO7P
reactant | trimethylsilyl iodide | 538 mg | C[Si](C)(C)I | C3H9ISi
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | cis 1-benzyloxycarbonyl-4-phosphonomethyl-2-piperidine-carboxylic acid methyl ester | COC(=O)[C@@H]1N(CC[C@@H](C1)CP(=O)(O)O)C(=O)OCC1=CC=CC=C1 | C16H22NO7P
